US04692184
Preparation of diethyl 2-(difluoromethyl)-4-ethyl-6-(trifluoromethyl)-3,5-pyridinedicarboxylate
A mixture of 1558 g (4.00 moles) of diethyl 2,6-bis(trifluoromethyl)-1,4-dihydro-4-ethyl-3,5-pyridinedicarboxylate, 628 g (4.0 moles) of 1,8-diazabicyclo-[5.4.0]-undec-5-ene (DBU), and 500 ml of tetrahydrofuran is held at reflux for 19 hours, cooled and poured into a mixture of 2 kg of ice and 250 ml of concentrated hydrochloric acid. The organic layer is separated and the aqueous layer extracted with 500 ml of CH2Cl2 twice. The combined organic materials are dried (MgSO4) and concentrated. The residue is kugelrohr distilled at 1 torr (pot temperature of 150°-160° C.) to give 1158 g (78.5%) of desired product, nD25 1.4458.

reactant | diethyl 2,6-bis(trifluoromethyl)-1,4-dihydro-4-ethyl-3,5-pyridinedicarboxylate | 4.00 moles, 1558 g | FC(C=1NC(=C(C(C1C(=O)OCC)CC)C(=O)OCC)C(F)(F)F)(F)F | C15H17F6NO4
reactant | 1,8-diazabicyclo-[5.4.0]-undec-5-ene | 4.0 moles, 628 g | N12CCCC=CC2NCCC1 | C9H16N2
reactant | hydrochloric acid | 250 ml | Cl | ClH
solvent | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
product | diethyl 2-(difluoromethyl)-4-ethyl-6-(trifluoromethyl)-3,5-pyridinedicarboxylate | 1158 g, 78.5% | FC(C1=NC(=C(C(=C1C(=O)OCC)CC)C(=O)OCC)C(F)(F)F)F | C15H16F5NO4
